US03975310
b. 6,10-Dimethyl-4-hydroxy-2,5,9-undecatriene
12 g. of magnesium turnings were suspended under nitrogen in 250 ml. of dry tetrahydrofuran. Between 60 and 65°, 60 g. of 1-bromopropene dissolved in 50 ml of tetrahydrofuran were added dropwise. During the addition, to prevent escaping of 1-bromopropene, the reflux condenser fitted on the reaction flask was cooled to -40°/-50°. When all Mg had reacted, the mixture was cooled to 20° and 76 g. of citral was added dropwise with cooling. After standing overnight, the mixture was poured into 1.5 liter of concentrated aqueous NH4Cl at 0°. The mixture was extracted 3 times with ether and the combined ether extracts treated as usual. After distillation, 6,10-dimethyl-4-hydroxy-2,5,9-undecatriene, b.p. 70°/0.1 Torr was obtained as a liquid with following constants: nD20 = 1.4950; d420 = 0.9145.

reactant | magnesium | [Mg] | Mg
reactant | 1-bromopropene | BrC=CC | C3H5Br
reactant | citral | CC(C)=CCCC(C)=CC=O | C10H16O
reactant | NH4Cl | 1.5 liter | [NH4+].[Cl-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6,10-Dimethyl-4-hydroxy-2,5,9-undecatriene | CC(=CC(C=CC)O)CCC=C(C)C | C13H22O
